US07084155B2
Preparation of cis-N-phenyl-cyclohexane-1,2-diamine
The cis-N-phenyl-N′-(t-butyloxycarbonyl)-cyclohexane-1,2-diamine isomer from above (0.095 g, 0.33 mmol) was dissolved in CH2Cl2 (2 mL) and treated with trifluoroacetic acid (2 mL) and the mixture stirred overnight. The reaction was worked up to afford the title compound (0.069 g) as a pale yellow solid. 1H NMR (CDCl3) 1.28–1.37 (m, 5H), 1.50–1.63 (m, 6H), 3.18 (br s, 1H), 3.42–3.45 (m, 1H), 6.63–6.70 (m, 3H), 7.16 (br t, 2H, J=7.5 Hz).

reactant | cis-N-phenyl-N′-(t-butyloxycarbonyl)-cyclohexane-1,2-diamine | C1(=CC=CC=C1)N[C@H]1[C@H](CCCC1)NC(=O)OC(C)(C)C | C17H26N2O2
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | cis-N-phenyl-cyclohexane-1,2-diamine | 0.069 g | C1(=CC=CC=C1)N[C@H]1[C@H](CCCC1)N | C12H18N2
